US06380218B1
5-Aminomethyl-1,3-dihydro-indol-2-one
To a solution of 2-Oxo-2,3-dihydro-1H-indole-5-carbonitrile (1.3 g) in methanol (30 ml) was added 10% PtO2 (0.200 g). This was shaken under 44 psi hydrogen over night. The catalyst was removed by filtration, and the mixture was dried over Na2SO4. The solution was concentrated to give a yellow solid, (1.1 g). MW 162; MS (m/e) 162 (M+).

reactant | 2-Oxo-2,3-dihydro-1H-indole-5-carbonitrile | 1.3 g | O=C1NC2=CC=C(C=C2C1)C#N | C9H6N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | PtO2 | 0.200 g | O=[Pt]=O
product | 5-Aminomethyl-1,3-dihydro-indol-2-one | NCC=1C=C2CC(NC2=CC1)=O | C9H10N2O
